US04277553
Alternatively, the above 2-sec-octadecylhydroquinone dimethyl ether was also obtained by the etherification of 2-sec-octadecylhydroquinone. Thus, 5.0 g of 2-sec-octadecylhydroquinone were dissolved in 50 ml of acetone and 1.2 g sodium hydroxide were added. After the dropwise addition of 3.8 g of dimethyl sulfate at room temperature, the reaction mixture was refluxed for 2 hours. The solvent was distilled off under reduced pressure and the residue was extracted with ether. After being washed with water and dried, the residue was distilled under reduced pressure to give 2.0 g of 2-sec-octadecylhydroquinone dimethyl ether having b.p. 200°-206° C./0.6 mmHg. IR and NMR data of both products were completely identical.

reactant | 2-sec-octadecylhydroquinone | 5.0 g | C(C)(CCCCCCCCCCCCCCCC)C1=C(O)C=CC(=C1)O | C24H42O2
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | dimethyl sulfate | 3.8 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-sec-octadecylhydroquinone dimethyl ether | 2.0 g | COC1=C(C=C(OC)C=C1)C(C)CCCCCCCCCCCCCCCC | C26H46O2
